US04925838
A mixture of (2S,4S)-2-(methanesulfonyloxy)methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (2.28 g) and piperazine (0.93 g) in dimethylformamide (40 ml) was stirred at 80°-90° C. for 5 hours. The reaction mixture was poured into ice-water (150 ml). The precipitates were collected by filtration, washed with water and dissolved in ethyl acetate (100 ml). The solution was washed twice with saturated aqueous sodium chloride (30 ml), dried over anhydrous magnesium sulfate and evaporated in vacuo to give a residue. The residue was dissolved in a mixture of tetrahydrofuran (20 ml) and water (10 ml). To the solution were added concentrated hydrochloric acid (0.60 ml) and potassium cyanate (0.44 g) and the mixture was stirred at 50° C. for 30 minutes. Ethyl acetate was added to the reaction mixture with stirring. The organic layer was separated and washed twice with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of dichloromethane and acetone (2:1, V/V and then 1:2, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-2-(4-carbamoylpiperazin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)-4(triphenylmethylthio)pyrrolidine (1.30 g).

reactant | (2S,4S)-2-(methanesulfonyloxy)methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 2.28 g | CS(=O)(=O)OC[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C33H32N2O7S2
reactant | piperazine | 0.93 g | N1CCNCC1 | C4H10N2
reactant | hydrochloric acid | 0.60 ml | Cl | ClH
reactant | potassium cyanate | 0.44 g | [O-]C#N.[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-2-(4-carbamoylpiperazin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)-4(triphenylmethylthio)pyrrolidine | 1.30 g | C(N)(=O)N1CCN(CC1)C[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C37H39N5O5S
